US04783459
2-Anilino-4,6-dimethylpyrimidine hydrochloride (100 g) was suspended in toluene (1200 ml). A slow stream of phosgene was passed through this over 5.5 hours at 108° (bath temperature of 120°) and then stirred for a further hour at the same temperature. After standing overnight, c. 300 ml of toluene was distilled at a bath temperature of 150°. It was then evaporated under reduced pressure. The oily residue was extracted twice with hexane (1000 ml) and the solution concentrated under reduced pressure. After a period of time crystals formed and these were separated to give N-(4,6-dimethylpyrimidin-2-yl)-N-phenylcarbamoyl chloride. This was shown by thin layer chromatography to be a uniform product, which was used without further purification.

reactant | 2-Anilino-4,6-dimethylpyrimidine hydrochloride | 100 g | Cl.N(C1=CC=CC=C1)C1=NC(=CC(=N1)C)C
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 1200 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4,6-dimethylpyrimidin-2-yl)-N-phenylcarbamoyl chloride | CC1=NC(=NC(=C1)C)N(C(=O)Cl)C1=CC=CC=C1 | C13H12ClN3O
